US07838547B2
4-(5-Chloropyridin-2-yl)cyclohex-3-enecarboxylic acid
A mixture of 4-(5-chloropyridin-2-yl)-4-hydroxycyclohexanecarboxylic acid ethyl ester (1.6 g) and sulfuric acid (5 ml) is heated at 60° C. for 15 minutes. After addition of water (0.4 ml) the mixture is again heated at 60° C. for 20 minutes. The cooled reaction mixture was diluted with water and washed with dichloromethane. The aqueous phase was adjusted to pH 7 with sodium bicarbonate solution and extracted with dichloromethane. The organic phase was dried over sodium sulfate and concentrated. The product with the molecular weight of 237.69 (C12H12ClNO2); MS (ESI): 238 (M+H+) was obtained in this way.

reactant | 4-(5-chloropyridin-2-yl)-4-hydroxycyclohexanecarboxylic acid ethyl ester | 1.6 g | C(C)OC(=O)C1CCC(CC1)(O)C1=NC=C(C=C1)Cl | C14H18ClNO3
reactant | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
solvent | water | 0.4 ml | O | H2O
product | 4-(5-Chloropyridin-2-yl)cyclohex-3-enecarboxylic acid | ClC=1C=CC(=NC1)C1=CCC(CC1)C(=O)O | C12H12ClNO2
